US05203907
Methyl 3-tert-butylaminocarbonyl-5-cyclopropylaminocarbonylisoxazole-4-carboxylat
0.75 g (I3.1 mmol) of cyclopropylamine was added dropwise at 20° C., with cooling, to a solution of 2.5 g (8.8 mmol) of dimethyl 3-tert-butylaminocarbonylisoxazole-4,5-dicarboxylate in 50 ml of dry methanol, and the mixture was stirred at room temperature for 20 hours. The solvents were stripped off under reduced pressure, and the residue was taken up in methyl tert-butyl ether and extracted with dilute HCl and once with water. The organic phase was then dried over magnesium sulfate, and the solution was evaporated. The resulting methyl3-tert-butylaminocarbonyl-5-cyclopropylaminocarbonylisoxazole-4-carboxylate was purified by column chromatography (SiO2 ; cyclohexane/ethyl acetate 4:1).

reactant | cyclopropylamine | 0.75 g | C1(CC1)N | C3H7N
reactant | dimethyl 3-tert-butylaminocarbonylisoxazole-4,5-dicarboxylate | 8.8 mmol, 2.5 g | C(C)(C)(C)NC(=O)C1=NOC(=C1C(=O)OC)C(=O)OC | C12H16N2O6
solvent | methanol | 50 ml | CO | CH4O
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | Methyl 3-tert-butylaminocarbonyl-5-cyclopropylaminocarbonylisoxazole-4-carboxylat | C(C)(C)(C)NC(=O)C1=NOC(=C1C(=O)OC)C(=O)NC1CC1 | C14H19N3O5
